US07973051B2
i) 6-Methanesulfonyl-1-methyl-1H-indole
To a slurry of sodium hydride (60% in mineral oil, 0.90 g, 23 mmol) was added in portions 6-(methylsulfonyl)-1H-indole (4.0 g, 20 mmol) over 5 minutes at 5-10° C. The reaction mixture was stirred at rt for 1 h until hydrogen evolution ceased, and methyl iodide was added dropwise over 5 minutes at 10-20° C. The mixture was stirred at rt for 1 h, quenched with ice/water, and extracted with tert-butylmethyl ether. The organics were washed, dried and concentrated. The residue was crystallized from ether/hexane to yield the desired compound (3.8 g) as a yellowish solid. MS (ISP): m/e 210.1 (M+H)+

reactant | sodium hydride | 23 mmol, 0.90 g | [H-].[Na+]
reactant | 6-(methylsulfonyl)-1H-indole | 20 mmol, 4.0 g | CS(=O)(=O)C1=CC=C2C=CNC2=C1 | C9H9NO2S
reactant | hydrogen | [H][H] | H2
reactant | methyl iodide | CI | CH3I
product | 6-Methanesulfonyl-1-methyl-1H-indole | 3.8 g | CS(=O)(=O)C1=CC=C2C=CN(C2=C1)C | C10H11NO2S
